US04962115
To a stirred mixture of 12.6 parts of 3-(4-fluoro-2-nitrophenoxy)propanol, 0.9 parts of N,N-dimethylformamide and 150 parts of trichloromethane were added dropwise 8.36 parts of thionyl chloride and stirring was continued for 1 hour at room temperature. The whole was further stirred and refluxed for 3 hours. The reaction mixture was evaporated under methylbenzene. The residue was stirred in petroleum ether. The product was filtered off and dried, yielding 7.41 parts (55%) of 1-(3-chloro- propoxy)-4-fluoro-2-nitrobenzene; mp. 143.3° C. (intermediate 25).

reactant | 3-(4-fluoro-2-nitrophenoxy)propanol | FC1=CC(=C(OCCCO)C=C1)[N+](=O)[O-] | C9H10FNO4
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | 1-(3-chloro- propoxy)-4-fluoro-2-nitrobenzene | 55% | ClCCCOC1=C(C=C(C=C1)F)[N+](=O)[O-] | C9H9ClFNO3
